US06969716B2
6,2′-Difluoro-5′-[3-(2,4-difluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile
To a degassed mixture of 5-(3-bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine (0.2 g, 0.55 mmol) and 3-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (0.270 g, 1.1 mmol) in 1,4-dioxane (6 ml) and sodium carbonate (2 ml, 2N solution) was added tetrakis(triphenylphosphine)palladium(0), and the mixture heated at 80° C. Fog 24 h. The mixture was cooled to ambient temperature and partitioned between water (30 ml) and dichloromethane (40 ml). The aqueous layer was extracted with dichloromethane (2×40 ml) and the combined organics dried over Mg2SO4, filtered and the solvent removed at reduced pressure. The crude product was chromatographed on silica gel, eluent 5% ethyl acetate in dichloromethane, to give the product as a pale yellow solid (0.014 g): δH (400 MHz, CDCl3) 6.99-7.10 (2H, m), 7.49 (4H, m), 8.30-8.44 (3H, m), 9.69 (1H, dd, J 0.8, 2.0 Hz); m/z (ES+) 407.

reactant | 5-(3-bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine | 0.55 mmol, 0.2 g | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F | C15H7BrF3N3
reactant | 3-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 1.1 mmol, 0.270 g | FC=1C(=C(C#N)C=CC1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 2N, 2 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6,2′-Difluoro-5′-[3-(2,4-difluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile | 0.014 g | FC=1C=CC=C(C1C1=C(C=CC(=C1)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F)F)C#N | C22H10F4N4
